US08350065B2
As shown in the Scheme, at the presence of 10% by mole of CuCl and 10% by mole of tris(2-(2-methoxyethoxy)ethyl) amine (TDA-1), 3-bromo-2-iodo benzoic acid was contacted with 2,3-dimethylphenol to yield phenoxybenzoic acid. Without purification, the phenoxybenzoic acid was directly dehydrated and cyclized by reagents such as sulfuric acid, methanesulfonic acid, polyphosphoric acid, or polyphosphate to yield dimethylxanthone. Diethyl malonate was arylated by the dimethylxanthone under catalysis of palladium to yield 5,6-dimethylxanthone-4-ethyl acetate which was hydrolyzed to yield DMXAA.

reactant | tris(2-(2-methoxyethoxy)ethyl) amine | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
reactant | 3-bromo-2-iodo benzoic acid | BrC=1C(=C(C(=O)O)C=CC1)I | C7H4BrIO2
reactant | 2,3-dimethylphenol | CC1=C(C=CC=C1C)O | C8H10O
catalyst | CuCl | Cl[Cu]
product | phenoxybenzoic acid | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
